US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-methyl-1H-pyrrole-3-carboxamide
Following the same procedure in Example 33, step A, using DIPEA (0.37 mL, 274 mg, 2.2 mmol), 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid (0.12 mmol) (see the step B in example 33 for preparation), methylamine hydrochloride (100 mg, 1.45 mmol) and HATU (150 mg, 0.40 mmol) in DMF (5 mL). The crude product was purified by MPLC using Hex/EtOAc (3:7) on silica gel to 25 mg (45%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.41-1.58 (m, 4 H), 1.61 (s, 9 H), 2.21-2.41 (m, 1 H), 2.79 (s, 3 H), 3.23-3.35 (m, 2 H), 3.83-3.96 (m, 2 H), 4.44 (d, J=7.62 Hz, 2 H), 6.63 (dd, J=3.32, 1.76 Hz, 1 H), 7.30 (dd, J=3.32, 2.34 Hz, 1H), 7.75-7.80 (m, 1 H), 7.95 (d, J=8.7 Hz, 1 H), 7.98 (dd, J=8.7, 1.5 Hz, 1 H), 8.27 (d, J=0.98 Hz, 1 H); MS (ESI) (M+H)+=458.8; Anal. Calcd for C23H30N4O4S+1.50 TFA (629.62): C, 49.60; H, 5.04; N, 8.90. Found: C, 49.53; H, 5.00; N, 9.10.

reactant | DIPEA | 2.2 mmol, 0.37 mL, 274 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid | 0.12 mmol | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)O | C22H27N3O5S
reactant | methylamine hydrochloride | 1.45 mmol, 100 mg | Cl.CN
reactant | HATU | 0.40 mmol, 150 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-methyl-1H-pyrrole-3-carboxamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)NC | C23H30N4O4S
